US07678913B2
4-Ethynylphenylisocyanate was prepared from reaction of 4-ethynylaniline with one equivalent of carbonyldiimidazole in CH2Cl2.

reactant | 4-ethynylaniline | C(#C)C1=CC=C(N)C=C1 | C8H7N
reactant | carbonyldiimidazole | one equivalent | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Ethynylphenylisocyanate | C(#C)C1=CC=C(C=C1)N=C=O | C9H5NO
